US04216318
Treatment of ethyl 2-(hydroxymethyl)-3-(3-pyridyl)-butyrate with thiourea and sodium ethoxide, followed by acidification gave 5-(1-(3-pyridyl)ethyl)-2-thiouracil m.p. 225°-228°.

reactant | ethyl 2-(hydroxymethyl)-3-(3-pyridyl)-butyrate | OCC(C(=O)OCC)C(C)C=1C=NC=CC1 | C12H17NO3
reactant | thiourea | NC(=S)N | CH4N2S
reactant | sodium ethoxide | [O-]CC.[Na+]
product | 5-(1-(3-pyridyl)ethyl)-2-thiouracil | N1=CC(=CC=C1)C(C)C=1C(NC(NC1)=S)=O | C11H11N3OS
